US05534530
a) 2,6-Dimethoxy-4-methylbenzoic acid
104 ml of 1.6M n-butyllithium solution in hexane are added to 200 ml of tetrahydrofuran, followed by dropwise addition of 25 ml of 3,5-dimethoxytoluene, at a temperature between 0° and 5° C. The reaction medium is stirred at 5° C. for 1 h 30, followed by introduction of excess gaseous CO2 over 30 minutes. The mixture is introduced into 200 ml of aqueous 0.5N HCl solution and the aqueous phase is extracted with ethyl acetate. The residue is concentrated and chromatographied on a silica column (eluent: dichloromethane/methanol - 93/7).

reactant | n-butyllithium | 1.6M, 104 ml | C(CCC)[Li]
reactant | 3,5-dimethoxytoluene | 25 ml | COC=1C=C(C=C(C1)OC)C | C9H12O2
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | 0.5N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,6-Dimethoxy-4-methylbenzoic acid | COC1=C(C(=O)O)C(=CC(=C1)C)OC | C10H12O4
